US05602172
Preparation of 2,5-Bis[4-cyanophenyl]furan
A mixture of 2,5-bis(4-bromophenyl)-3-furan carboxylic acid 0.85 g (0.002 mole), CuCN 0.45 g (0.005 mole) in 10 ml freshly distilled quinoline is heated under reflux for 3 hours. The mixture is cooled and 100 ml dilute aqueous HCl is added and the mixture is stirred for 30 min. and filtered. The solid is washed with water and then with hexane. The resultant yellow solid is dissolved in acetone and passed through an alumina (neutral) column to yield a yellow crystalline solid 0.37 g (68%) having amp of 293°-295° C. The product is identical with that described in Example 1.

reactant | 2,5-bis(4-bromophenyl)-3-furan carboxylic acid | 0.002 mole, 0.85 g | BrC1=CC=C(C=C1)C=1OC(=CC1C(=O)O)C1=CC=C(C=C1)Br | C17H10Br2O3
reactant | CuCN | 0.005 mole, 0.45 g | C(#N)[Cu]
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | HCl | 100 ml | Cl | ClH
product | 2,5-Bis[4-cyanophenyl]furan | 0.37 g, 68% | C(#N)C1=CC=C(C=C1)C=1OC(=CC1)C1=CC=C(C=C1)C#N | C18H10N2O
